US07422609B2
Stage 1: synthesis of 4-nitro-N-(3-{[(4-nitrophenyl)amino]methyl}benzyl)aniline (1)
1.73 g of para-fluoronitrobenzene (2 eq.) were dissolved in 5 ml of DMSO. 1.2 equivalents of m-xylenediamine and 4 equivalents of triethylamine were added to the solution. The reaction mixture was heated at 60° C. for 20 hours. The mixture was then poured onto crushed ice and a precipitate formed. The latter was filtered, washed with water, and then dried.

reactant | para-fluoronitrobenzene | 1.73 g, 2 eq. | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | m-xylenediamine | 1.2 equivalents | C=1(C(=C(C(=CC1)N)C)N)C | C8H12N2
reactant | triethylamine | 4 equivalents | C(C)N(CC)CC | C6H15N
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 4-nitro-N-(3-{[(4-nitrophenyl)amino]methyl}benzyl)aniline | [N+](=O)([O-])C1=CC=C(NCC2=CC(=CC=C2)CNC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C20H18N4O4
